US05143920
Ethyl 2-butyryl-3-(4-benzoyloxy-2-methoxyphenylamino)acrylate (22 g) was added portionwise to boiling diphenyl ether and heated under reflux for 45 minutes. When cool, the mixture was chromatographed (silica gel, 2% methanol in dichloromethane) to give 3-butyryl-6-benzoyloxy-8-methoxy-4(1H)-quinolone as a light brown solid (18.1 g, 92%), m.p. 102°-4°.

reactant | Ethyl 2-butyryl-3-(4-benzoyloxy-2-methoxyphenylamino)acrylate | 22 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=C(C=C1)OC(C1=CC=CC=C1)=O)OC | C23H25NO6
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-6-benzoyloxy-8-methoxy-4(1H)-quinolone | 18.1 g, 92% | C(CCC)(=O)C1=CNC2=C(C=C(C=C2C1=O)OC(C1=CC=CC=C1)=O)OC | C21H19NO5
